### PR TITLE
feat(eval): add Horner evaluation for polynomial representations

### PR DESCRIPTION
**Pull request by olympichek**
This PR adds:

### Univariate polynomials
Public wrappers over existing Horner evaluation methods for `CPolynomial.Raw` and equivalence lemmas for them.

### Bivariate polynomials

Horner evaluation for bivariate polynomials:
- `CBivariate.evalEvalHornerYThenX`: evaluate in `Y` by Horner, then evaluate the resulting `X` polynomial by Horner
- `CBivariate.evalEvalHornerXThenY`: evaluate each `X`-coefficient polynomial at `x` by Horner, then Horner-evaluate the resulting scalar polynomial in `Y` 

Equivalence lemmas for them:
- `evalEvalHornerYThenX` is equivalent to `evalEval` - added in `Bivariate/Basic.lean`
- `evalEvalHornerXThenY` is equivalent to `evalEval`- added in `Bivariate/ToPoly.lean`, requires commutativity assumption for semirings

Bivariate evaluation benchmarks comparing `evalEval`, `evalEvalHornerYThenX` and `evalEvalHornerXThenY`.

 ### Multilinear polynomials

  - Horner evaluation for coefficient-form multilinear polynomials
  - Lemma establishing `evalHorner` equivalent to `eval`
  - Benchmarks comparing `eval` and `evalHorner` for coefficient-form multilinear polynomials

### Multilinear extension evaluation

- MLE for hypercube-value multilinear polynomials (`CMlPolynomialEval`)
- Lemma establishing equilvalence of `eval` and `evalMle`
- Benchmarks comparing `eval` and `evalMle`

### Multivariate polynomials

- Horner evaluation for multivariate polynomials
- Lemma establishing equivalence of `eval` and `evalHorner` in a dedicated file `HornerLemmas.lean` (it is large)
- Benchmarks comparing `eval` and `evalHorner`

### CODE REVIEW

**Comment by clarus** [comment]
OK, from my end, the pull request is good; I do not see any remarks to say!

File: CompPoly/Univariate/Basic.lean [hunk 1]
```diff
@@ -206,6 +206,34 @@ def eval₂ {S : Type*} [Semiring R] [Semiring S]
...
+/-- Horner evaluation agrees with the sum-of-powers evaluation. -/
+theorem eval_eq_eval_horner [Semiring R] (x : R) (p : CPolynomial R) :
+    eval x p = evalHorner x p := by
+  simpa [eval, evalHorner, eval₂, eval₂Horner] using
+    (eval₂_eq_eval₂_horner (f := RingHom.id R) (x := x) (p := p))
+
+/-- Horner evaluation agrees with the sum-of-powers evaluation. -/
+theorem eval_horner_eq_eval [Semiring R] (x : R) (p : CPolynomial R) :
+    evalHorner x p = eval x p :=
+  (eval_eq_eval_horner x p).symm
```
Comment (dhsorens) [inline CompPoly/Univariate/Basic.lean]: This theorem looks redundant to me?

File: CompPoly/Multivariate/CMvPolynomial.lean [hunk 2]
```diff
@@ -129,10 +129,94 @@ def eval₂ {R S : Type*} {n : ℕ} [Semiring R] [CommSemiring S] :
...
+
 /-- Evaluate a polynomial at a given point. -/
 def eval {R : Type*} {n : ℕ} [CommSemiring R] : (Fin n → R) → CMvPolynomial n R → R :=
   eval₂ (RingHom.id _)
 
+/-- Evaluate a polynomial at a given point using fixed-order multivariate Horner evaluation. -/
+def evalHorner {R : Type*} {n : ℕ} [CommSemiring R] :
+    (Fin n → R) → CMvPolynomial n R → R :=
+  eval₂Horner (RingHom.id _)
+
```
Comment (dhsorens) [inline CompPoly/Multivariate/CMvPolynomial.lean:221]: might want to add this to the documentation at the top of the file as part of the "main definitions"

File: CompPoly/Bivariate/ToPoly.lean [hunk 3]
```diff
@@ -608,6 +608,42 @@ theorem evalX_toPoly_eval {R : Type*} [BEq R] [LawfulBEq R] [Nontrivial R] [Comm
   simpa using
     (evalX_toPoly_eval_commute (R := R) (a := a) (y := y) (hc := Commute.all a y) (f := f))
 
+/-- `X`-then-`Y` Horner full evaluation agrees with the existing evaluator over
+commutative coefficient semirings. -/
+theorem eval_eval_horner_x_then_y_eq_eval_eval {R : Type*}
+    [BEq R] [LawfulBEq R] [Nontrivial R] [CommSemiring R] [DecidableEq R]
+    (x y : R) (p : CBivariate R) :
```
Comment (dhsorens) [inline CompPoly/Bivariate/ToPoly.lean]: I see that there a corresponding lemma `eval_eval_horner_y_then_x_eq_eval_eval` in Basic.lean - probably a good idea to keep them in the same place? Because this is an equivalence with evalEval (and doesn't have to do with the mathlib Polynomial type) maybe good to have this also in Basic

**Review by dhsorens — COMMENTED** [review]
I'm broadly happy with this PR, thanks! Just a few comments, then happy to merge

File: CompPoly/Univariate/Basic.lean (hunk 1 above)
Comment (olympichek) [reply CompPoly/Univariate/Basic.lean]: I agree. If you don't mind, I will keep only `evalHorner = eval` direction

File: CompPoly/Bivariate/ToPoly.lean (hunk 3 above)
Comment (olympichek) [reply CompPoly/Bivariate/ToPoly.lean]: The `eval_eval_horner_x_then_y_eq_eval_eval ` lemma statement doesn't have to do anything with Mathlib's `Polynomial`, but the current proof uses Mathlib bridge lemmas

Comment (olympichek) [reply CompPoly/Bivariate/ToPoly.lean]: Okay, I just re-proved it without relying on the Mathlib bridge, but the proof is a little longer. I am not sure it should be kept in `Basic.lean`

File: CompPoly/Multivariate/CMvPolynomial.lean (hunk 2 above)
Comment (olympichek) [reply CompPoly/Multivariate/CMvPolynomial.lean:221]: Okay, added

File: CompPoly/Bivariate/ToPoly.lean (hunk 3 above)
Comment (dhsorens) [reply CompPoly/Bivariate/ToPoly.lean]: ohhh I see - sorry I didn't realize that it used the mathlib bridge. happy in principle either way but would probably prefer whatever is simpler/compiles more quickly

Comment (olympichek) [reply CompPoly/Bivariate/ToPoly.lean]: Okay, then I will keep a simpler proof

**Review by dhsorens — APPROVED** [review]

**Comment by dhsorens** [comment]
great, merged ✅
